US04400566
A 50 ml two-neck flask was charged with 0.13 g of nickel chloride, 0.5 g of sodium iodide, 2.0 g of triphenylphosphine, and 2.0 g of powdered aluminum. Ten ml of DMAC was added to this mixture after a nitrogen atmosphere has been introduced, and the flask was placed in a 60° oil bath. Once the red-brown catalyst had formed, 2 ml of chlorobenzene was added and reacted at 60° for six hours. Analysis of the reaction mixture revealed that all of the chlorobenzene had been consumed and had produced 82% benzene and 18% biphenyl.

reactant | sodium iodide | 0.5 g | [I-].[Na+]
reactant | triphenylphosphine | 2.0 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | aluminum | 2.0 g | [Al] | Al
reactant | DMAC | Ten ml | CC(=O)N(C)C | C4H9NO
catalyst | nickel chloride | 0.13 g | [Ni](Cl)Cl
solvent | chlorobenzene | ClC1=CC=CC=C1 | C6H5Cl
solvent | chlorobenzene | 2 ml | ClC1=CC=CC=C1 | C6H5Cl
product | biphenyl | 18% | C1(=CC=CC=C1)C1=CC=CC=C1 | C12H10
